US06323235B1
Methyl (3-(2-hydroxy-5, 5-diphenylpentyl)benzofuran-7-yloxy)acetate
3-(2-acetoxy-5, 5-diphenylpentyl)-7-acetoxybenzofuran (184 mg) was dissolved in methanol (5 ml) and the obtained solution was stirred at room temperature. To this solution, 1N aqueous sodium hydroxide solution (1 ml) was added and the resulting solution was stirred at room temperature. After confirming vanishment of the materials, the solvent was removed under reduced pressure. Water (5 ml) was added to the obtained residue and the resultant was extracted three times with ethyl acetate (10 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. The sodium sulfate was removed by filtration and the solvent was removed under reduced pressure to obtain a crude product. The obtained crude product was dissolved in DMF (3 ml) and the obtained solution was stirred at room temperature. To this solution, potassium carbonate (100 mg) and methyl bromoacetate (0.10 ml) were added and the resultant was stirred at room temperature. After confirming vanishment of the materials, the reaction solution was poured into saturated aqueous ammonium chloride solution and extracted three times with ethyl acetate (10 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1-2/1) using silica gel to obtain the desired compound (184 mg, yield: 100%).

reactant | 3-(2-acetoxy-5, 5-diphenylpentyl)-7-acetoxybenzofuran | 184 mg | C(C)(=O)OC(CC1=COC2=C1C=CC=C2OC(C)=O)CCC(C2=CC=CC=C2)C2=CC=CC=C2 | C29H28O5
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.10 ml | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Methyl (3-(2-hydroxy-5, 5-diphenylpentyl)benzofuran-7-yloxy)acetate | 184 mg, yield: 100% | OC(CC1=COC2=C1C=CC=C2OCC(=O)OC)CCC(C2=CC=CC=C2)C2=CC=CC=C2 | C28H28O5
